US04457862
Ethyl 3,5-dimethyl-cyclohexylideneacetate
85 g of dry toluene are added to a round flask which is fitted with a stirrer, thermometer, dropping funnel and reflux condenser. Under a nitrogen atmosphere there are now introduced 17.2 g of sodium in small portions and the mixture is heated to boiling. After dissolution of the sodium (after about 3 hours), the mixture is cooled to 20° C. and there is slowly added dropwise thereto (during about 11/2 hours) a mixture of 219 g of ethyl diethylphosphonoacetate, 95 g of 3,5-dimethyl-cyclohexanone and 220 g of dry toluene. The temperature is held between 25° and 30° C. The mixture is stirred at this temperature for a further 2 days and thereupon poured on to 400 g of ice, extracted with toluene, washed neutral and concentrated. The residue is distilled over a Widmer column and thus yields 110 g of ethyl 3,5-dimethyl-cyclohexylideneacetate.

reactant | sodium | 17.2 g | [Na] | Na
reactant | ethyl diethylphosphonoacetate | 219 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 3,5-dimethyl-cyclohexanone | 95 g | CC1CC(CC(C1)C)=O | C8H14O
solvent | toluene | 220 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 85 g | C1(=CC=CC=C1)C | C7H8
product | Ethyl 3,5-dimethyl-cyclohexylideneacetate | CC1CC(CC(C1)C)=CC(=O)OCC | C12H20O2
